US07790714B2
(S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester (8.0 g, 13.3 mmol) was suspended in 30 mL DCM and 1R-2S-5R (−)-menthol (26.6 mmol), EDC (26.6 mmol) and DMAP (cat.) added. The mixture was stirred at rt for 6 h and the mixture was diluted with DCM. The organic layer was washed with water and brine, dried over sodium sulfate and concentrated. The residue purified over silica with hexanes-EtOAc gradient (0% EtOAc to 30%) to provide (3S,7S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-((1R,2S,5R)-2-isopropyl-5-methyl-cyclohexyl) ester (2.4 g, 1H NMR (400 MHz, CDCl3): 8.2 (m, 1H), 7.5 (m, 1H), 7.42 (d, 1H), 7.35 (m, 2H), 7.25 (m, 1H), 6.9 (m, 2H), 6.7 (m, 1H), 6.6 (s, 1H), 5.55 (m, 1H), 4.8-5.1 (m, 1H), 5.0 (s, 2H), 4.3-4.6 (m, 3H), 3.1 (m, 2H), 1.8 (m, 1H), 1.6 (m, 3H), 1.5 (d, 9H), 1.3 (m, 2H), 0.7-1.0 (m, 9H), 0.4 (m, 3H).

reactant | (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester | 13.3 mmol, 8.0 g | C(C)(C)(C)OC(=O)N1CC=2C=C3O[C@H](C(NC3=CC2CC1C(=O)O)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C30H28Cl2N2O7
reactant | EDC | 26.6 mmol
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | (3S,7S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-((1R,2S,5R)-2-isopropyl-5-methyl-cyclohexyl) ester | C(C)(C)[C@H]1[C@@H](C[C@@H](CC1)C)OC(=O)[C@H]1N(CC=2C=C3O[C@H](C(NC3=CC2C1)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)C(=O)OC(C)(C)C | C40H46Cl2N2O7
